US06333358B1
To a solution of 1.00 g of N-(2,4-dimethoxy benzyl)-2-phenoxyaniline in 1.18 g of pyridine was added 0.76 g of acetic anhydride, followed by stirring at room temperature for a day. The reaction mixture was poured into water and extracted with ethyl acetate, and the extract was washed with 0.5 N hydrochloric acid, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, successively, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the solvent was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate-hexane=1:3) to give 1.09 g of N-acetyl-N-(2,4-dimethoxybenzyl)-2-phenoxyaniline as an oil.

reactant | N-(2,4-dimethoxy benzyl)-2-phenoxyaniline | 1.00 g | COC1=C(CNC2=C(C=CC=C2)OC2=CC=CC=C2)C=CC(=C1)OC | C21H21NO3
reactant | acetic anhydride | 0.76 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | 1.18 g | N1=CC=CC=C1 | C5H5N
product | N-acetyl-N-(2,4-dimethoxybenzyl)-2-phenoxyaniline | 1.09 g | C(C)(=O)N(C1=C(C=CC=C1)OC1=CC=CC=C1)CC1=C(C=C(C=C1)OC)OC | C23H23NO4
